US06177422B1
2-[4-Hydroxy-3-nitro-phenyl]-1,3-dioxane (5.6 g, 24.9 mmol) is reduced in the presence of Raney nickel in 50 mL of tetrahydrofuran (THF) under a hydrogen atmosphere. When the theoretical amount of hydrogen is taken up, the catalyst is removed by filtration. Chloroacetyl chloride (2.5 g, 22.2 mmol) and sodium bicarbonate (3.6 g, 42.3 mmol) are added to the filtrate at room temperature and the mixture is stirred for 1 hour under argon. The solvent is evaporated and the remaining solid is taken up in 50 mL of methanol. The solution is acidified to a pH of about one with 1.0 N HCl and stirred at room temperature for 1 hour. The precipitate is collected and dried under vacuum to give 2.5 g (65% yield) of 3-(chloroacetylamino)-4-hydroxy-benzaldehyde as a hydrate; mp 190-192° C.

reactant | 2-[4-Hydroxy-3-nitro-phenyl]-1,3-dioxane | 24.9 mmol, 5.6 g | OC1=C(C=C(C=C1)C1OCCCO1)[N+](=O)[O-] | C10H11NO5
reactant | hydrogen | [H][H] | H2
reactant | Chloroacetyl chloride | 22.2 mmol, 2.5 g | ClCC(=O)Cl | C2H2Cl2O
reactant | sodium bicarbonate | 42.3 mmol, 3.6 g | C([O-])(O)=O.[Na+]
catalyst | Raney nickel | [Ni] | Ni
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | 3-(chloroacetylamino)-4-hydroxy-benzaldehyde | 2.5 g, 65% yield | ClCC(=O)NC=1C=C(C=O)C=CC1O | C9H8ClNO3
